US04753944
2-Amino-N-[3-(1H-imidazol-1-yl)butyl]-5-methylbenzamide
When 5-methylisatoic anhydride was reacted with 3-(1H-imidazol-1-yl)butanamine by the procedure of Example 11, the above compound, mp 128°-130° C., was obtained.

reactant | 5-methylisatoic anhydride | CC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C9H7NO3
reactant | 3-(1H-imidazol-1-yl)butanamine | N1(C=NC=C1)C(CCN)C | C7H13N3
product | 2-Amino-N-[3-(1H-imidazol-1-yl)butyl]-5-methylbenzamide | NC1=C(C(=O)NCCC(C)N2C=NC=C2)C=C(C=C1)C | C15H20N4O
